US04547573
To a mixture of t-butyl 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylate (3.3 g.) and 1-(2,2-diethoxyethyl)-3-t-butyldimethylsilylcarbodiimide (2.0 g.) in CH2Cl2 (50 ml.) at room temperature was added trifluoromethanesulphonic acid (0.89 ml.) over 2 minutes. The mixture was evaporated to dryness and the residue, t-butyl 3-acetoxymethyl-7-[2-(2,2-diethoxyethyl)-3-t-butyldimethylsilyl]guanidinoceph-3-em-4-carboxylate, was dissolved in acetonitrile (50 ml.) and the mixture treated first with 50% w/v aqueous HF (0.8 ml.) at room temperature for 15 minutes and then with 12N aqueous HCl (1.0 ml.) for 1.5 hours at room temperature. The reaction mixture was evaporated to dryness and the residue triturated with ether to give t-butyl 3-acetoxymethyl-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylate as a mixture of salts. This powder was dissolved in TFA (5 ml.) and this solution allowed to stand for 15 minutes at room temperature. The solvent was evaporated and the residue triturated with ether (yield from 7-amino derivative 41%) and then purified by chromatography on "Dowex" 1 resin (acetate form) using 0.1% v/v aqueous HOAc as eluant to give 3-acetoxymethyl-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylic acid (yield from 7-amino derivaive 34%) having the following n.m.r. in d6DMSO: 2.1 (s, 3H); 3.45 (d, 1H); 3.7 (d, 1H); 4.8 (d, 1H); 5.15 (d, 1H); 5.3 (d, 1H); 5.7 (d, 1H); 7.1 (s, 2H); 9.4 (d, 1H).

reactant | t-butyl 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylate | 3.3 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2N)=O | C14H20N2O5S
reactant | 1-(2,2-diethoxyethyl)-3-t-butyldimethylsilylcarbodiimide | 2.0 g | C(C)OC(CN=C=N[Si](C)(C)C(C)(C)C)OCC | C13H28N2O2Si
reactant | trifluoromethanesulphonic acid | 0.89 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 3-acetoxymethyl-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC=2NC=CN2)=O | C17H22N4O5S
